US06265411B1
A solution of 5-methylaminosulphonyloxindole (262 mg, 1.16 mmol) in DMF (3.5 ml) was added dropwise to a suspension of sodium hydride (46 mg, 1.1 6 mmol, prewashed with hexane) in DMF (1.5 ml). The mixture was stirred for 30 minutes at ambient temperature and 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (130 mg, 0.38 mmol), (prepared as described for the starting material in Example 5), was added as a solid. The mixture was stirred for 45 minutes at 60° C. and was then partitioned between ether and water. The aqueous layer was separated and was adjusted to pH7-8 with 1M hydrochloric acid. The precipitate was collected by filtration, washed with water and ether, and dried under vacuum. The solid was suspended in methylene chloride/methanol (1/1) and 2.2M ethereal hydrogen chloride (1.5 ml) was added. The mixture was stirred for 10 minutes at ambient temperature and the volatiles were removed by evaporation. The solid residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum at 60° C. to give 6-methoxy-4-(5-methylaminosulphonyloxindol-3-yl)-7-(3-morpholinopropoxy)quinazoline hydrochloride (116 mg, 53%).

reactant | 5-methylaminosulphonyloxindole | 1.16 mmol, 262 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
reactant | sodium hydride | 6 mmol, 46 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.38 mmol, 130 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-(5-methylaminosulphonyloxindol-3-yl)-7-(3-morpholinopropoxy)quinazoline hydrochloride | 116 mg, 53% | Cl.COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)C1C(NC2=CC=C(C=C12)S(=O)(=O)NC)=O | InChI=1S/C25H29N5O6S.ClH/c1-26-37(32,33)16-4-5-19-17(12-16)23(25(31)29-19)24-18-13-21(34-2)22(14-20(18)27-15-28-24)36-9-3-6-30-7-10-35-11-8-30;/h4-5,12-15,23,26H,3,6-11H2,1-2H3,(H,29,31);1H
